US04249937
2-(1-allyloxyaminobutylidene)-5-(2-ethylsulfinylpropyl)-cyclohexane-1,3-dione (Compound No. 2)
6 g of 2-butyryl-5-(2-ethylsulfinylpropyl)-cyclohexane-1,3-dione was dissolved in 30 ml of ethanol. To the solution was added 1.6 g of allyloxyamine and the resulting solution was stirred at room temperature for 15 hours. After completion of the reaction, the reaction solution was treated as in Example 1 to obtain 4.8 g of the desired compound as colorless oily material.

reactant | 2-butyryl-5-(2-ethylsulfinylpropyl)-cyclohexane-1,3-dione | 6 g | C(CCC)(=O)C1C(CC(CC1=O)CC(C)S(=O)CC)=O | C15H24O4S
reactant | allyloxyamine | 1.6 g | C(C=C)ON | C3H7NO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(1-allyloxyaminobutylidene)-5-(2-ethylsulfinylpropyl)-cyclohexane-1,3-dione | 4.8 g | C(C=C)ONC(CCC)=C1C(CC(CC1=O)CC(C)S(=O)CC)=O | C18H29NO4S
